US07375105B2
Step 1: 2,2-Dimethyl-3-oxo-5-pyridin-4-yl-pent-4-enenitrile
Pyridine-4-carboxaldehyde (6.9 ml, 72 mmol) was added to dry pyridine (16 ml) under argon. 2,2-Dimethyl-3-oxo-butyronitrile {J. K. Rasmussen et al., Synthesis, 1973, 682} (8.0 g, 72 mmol) and diethylamine (7.3 ml, 71 mmol) were subsequently added and the solution heated under reflux for 18 hours. After cooling to room temperature, the mixture was poured into water and ethyl acetate. The mixture was separated and the aqueous phase re-extracted with ethyl acetate. The combined organic layers were dried and concentrated in vacuo to yield a solid which was triturated with diethyl ether to give the title compound (8.5 g, 59%); MS (ES+) m/e 201 [M+H]+.

reactant | Pyridine-4-carboxaldehyde | 72 mmol, 6.9 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2-Dimethyl-3-oxo-butyronitrile | CC(C#N)(C(C)=O)C | C6H9NO
reactant | diethylamine | 71 mmol, 7.3 ml | C(C)NCC | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,2-Dimethyl-3-oxo-5-pyridin-4-yl-pent-4-enenitrile | 8.5 g, 59% | CC(C#N)(C(C=CC1=CC=NC=C1)=O)C | C12H12N2O
